US08703953B2
To a solution of 4-chloro-5-fluoronicotinate (1.2 g, 6.33 mmol) in 1,4-dioxane (12 mL) and water (0.5 mL) was added (4-chloro-2-fluorophenyl)boronic acid (1.214 g, 6.96 mmol) and potassium phosphate, dibasic (2.205 g, 12.66 mmol). To this mixture, PdCl2(dppf) (0.371 g, 0.506 mmol) was added and the solution purged with N2 for 10 min then heated to 80° C. for 12 h. The mixture was cooled to room temperature and water (25 mL) was added. The solution was extracted with ethyl acetate (3×25 mL). The combined organic layers were washed with brine (25 mL) and concentrated under reduced pressure to afford the residue which was purified by silica gel column using a gradient of ethyl acetate in hexanes to afford methyl 4-(4-chloro-2-fluorophenyl)-5-fluoronicotinate (900 mg, 3.17 mmol, 50% yield) as a yellow solid. LCMS (ESI) m/e 284.0 [(M+H)+, calcd for C13H9ClF2NO2 284.0]; LC/MS retention time (Method F): tR=1.01 min.

reactant | 4-chloro-5-fluoronicotinate | 6.33 mmol, 1.2 g | ClC1=C(C=NC=C1C(=O)[O-])F
reactant | (4-chloro-2-fluorophenyl)boronic acid | 6.96 mmol, 1.214 g | ClC1=CC(=C(C=C1)B(O)O)F | C6H5BClFO2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 12 mL | O1CCOCC1 | C4H8O2
solvent | water | 0.5 mL | O | H2O
catalyst | PdCl2(dppf) | 0.506 mmol, 0.371 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 4-(4-chloro-2-fluorophenyl)-5-fluoronicotinate | 3.17 mmol, 900 mg, 50% yield | ClC1=CC(=C(C=C1)C1=C(C=NC=C1C(=O)OC)F)F | C13H8ClF2NO2
